US04616014
6-(4-Chlorophenyl)-3-hydrazino-5-methyl-1,2,4-triazine (4.36 g) was dissolved in ethanol (70 ml) containing anhydrous hydrogen chloride, and then hydrogenated over 5% palladium on carbon (0.73 g) under atmospheric pressure at room temperature. After the theoretical amount of hydrogen gas was absorbed, the catalyst was filtered off. The filtrate was evaporated under reduced pressure to give a residual solid, which was recrystallized from diluted hydrochloric acid to give colorless crystals of 6-(4-chlorophenyl)-3-hydrazino-5-methyl-2,5-dihydro-1,2,4-triazine hydrochloride (2.04 g), m.p. 207°~208° C.

reactant | 6-(4-Chlorophenyl)-3-hydrazino-5-methyl-1,2,4-triazine | 4.36 g | ClC1=CC=C(C=C1)C1=C(N=C(N=N1)NN)C | C10H10ClN5
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 70 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.73 g | [Pd] | Pd
product | 6-(4-chlorophenyl)-3-hydrazino-5-methyl-2,5-dihydro-1,2,4-triazine hydrochloride | 2.04 g | Cl.ClC1=CC=C(C=C1)C=1C(N=C(NN1)NN)C | InChI=1S/C10H12ClN5.ClH/c1-6-9(15-16-10(13-6)14-12)7-2-4-8(11)5-3-7;/h2-6H,12H2,1H3,(H2,13,14,16);1H
